US09145380B2
N-(2-Sulfamoylphenyl)-2,3-dihydro-1H-indene-5-sulfonamide
Indan-5-sulfonyl chloride (43 mg, 0.2 mmol) was added to a pyridine stock solution of 1.34M 2-amino-benzenesulfonamide (0.150 mL, 0.2 mmol). The reaction mixture was shaken overnight followed by solvent removal under vacuo. The crude mixture was dissolved in DMSO and purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (22 mg, 32%) as a white solid. MS m/z M−H 351. Rf 0.91 min (see above system in General procedure for Examples 23-43).

reactant | Indan-5-sulfonyl chloride | 0.2 mmol, 43 mg | C1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C9H9ClO2S
reactant | 2-amino-benzenesulfonamide | 0.2 mmol, 1.34M, 0.150 mL | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(2-Sulfamoylphenyl)-2,3-dihydro-1H-indene-5-sulfonamide | 22 mg, 32% | S(N)(=O)(=O)C1=C(C=CC=C1)NS(=O)(=O)C=1C=C2CCCC2=CC1 | C15H16N2O4S2
